Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Erectile dysfunction
 
Major Surgical or Invasive Procedure:
Insertion penile prosthesis - ___ - Dr. ___

 
___ of Present Illness:
___ h/o radical prostatectomy ___ with post-prostatectomy ED 
unresponsive to other measures who elected for definitive 
treatment with implantable penile device. 

 
Past Medical History:
PAST MEDICAL HISTORY/PSH:  
Essential thrombocytosis. 
Exercise-induced asthma 
Radiation therapy for acne in his youth resulting in 
hypothyroidism.
Hydrocele repair by Dr. ___ in early ___.  
Cholecystectomy.
Inguinal hernia repair.

 
Social History:
___
Family History:
His father had prostate cancer and lived well
into his ___.

 
Physical Exam:
___, NAD, AVSS

Interactive, cooperative

Abdomen soft, Nt/Nd

Hemiscrotum Incision c/d/i w/out evidence hematoma or infection

Ecchymosis at penile shaft/scrotum noted but without induration

Lower extremities w/out edema or pitting and no report of calf 
pain

 
Pertinent Results:
___ 10:11AM   GLUCOSE-113* UREA N-17 CREAT-0.8 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-107 TOTAL CO2-28 ANION GAP-10
___ 10:11AM   estGFR-Using this
___ 10:11AM   WBC-4.3 RBC-2.65* HGB-11.0* HCT-32.6* 
MCV-123* MCH-41.5* MCHC-33.8 RDW-15.8*
___ 10:11AM   PLT COUNT-233
 
Brief Hospital Course:
The patient was admitted to the Urology service for placement of 
penile prosthesis. No concerning intraoperative events occurred; 
please see dictated operative note for details. The patient 
received vancomycin and gentamicin for pre-operative infection 
prophylaxis and post-operatively for prophylaxis. Post-op course 
was uncomplicated. His foley catheter was removed immediately 
postoperatively and the patient voided without difficulty.  
Hemovac drain was removed on POD 1.  At discharge, patient's 
pain was well controlled with oral pain medications, tolerating 
regular diet, ambulating without assistance, and voiding without 
difficulty. Incision at discharge without erythema or hematoma. 
Specific instructions about prosthesis care given, and also 
included in this discharge summary. Antibiotic scripts for DC 
were given.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY *AST Approval Required*
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing or dyspnea 
3. Citalopram 40 mg PO DAILY 
4. Hydroxyurea 1000 mg PO DAILY 
5. FoLIC Acid ___ mcg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing or dyspnea 
2. Citalopram 40 mg PO DAILY 
3. FoLIC Acid ___ mcg PO DAILY 
4. Hydroxyurea 1000 mg PO DAILY 
5. Acetaminophen 650 mg PO Q4H:PRN pain or fever 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth Q4 hrs Disp #*50 
Capsule Refills:*0
7. Aspirin 81 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
9. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth q12 
hrs Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Erectile Dysfunction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the instructions provided to you by the 
manufacturer

-Do NOT pull down on implanted bulbs in scrotum.

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative

course with your primary care doctor.

-___ keep your phallus at midline, pointed toward your 
umbilicus, taped in place with

protective gauze if necessary for the next week. Of course you 
may point it downward for

voiding.

-over the next several days you may experience some increased 
swelling of your phallus and

scrotum resembling a semi-rigid phalus (semi-erect); this is 
normal.  This may be accompanied

by discoloration (ecchymosis) involving the phallus and the 
scrotum; this too is normal and will

gradually resolve.

-Please remove the surgical dressing over penis and/or under 
scrotum on post-operative day two:

no further wound care is needed and you may leave the wound open 
to air. Wear comfortable,

loose fitting briefs or boxer-briefs for support--they should be 
cotton and/or breathable

-Do NOT use prosthesis for 6 weeks and until explicitly advised 
by your urologist

-Complete a 7 day course of antibiotics as directed

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision.

-Do not lift anything heavier than a phone book and no sports, 
vigorous physical activity (including sexual).

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been

prescribed for breakthough pain >4.  Replace Tylenol with 
narcotic pain medication.  Max daily

Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen)

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related

to narcotic pain medication, discontinue if loose stool or 
diarrhea develops.  Colace is a stool "softener"- it is NOT a 
laxative

-Resume all of your home medications, except hold NSAID 
(aspirin,  and ibuprofen containing

products such as advil & motrin) for ONE week or until you see 
your urologist in follow-up OR

you are explicitly advised to resume sooner by your PCP, 
___ or Cardiologist

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your

incision, call your doctor or go to the nearest emergency room.
 
Followup Instructions:
___